US04277474
A mixture of 125 ml of nitromethane, 35 ml of toluene, 20 ml of ethanol, and 1 ml of concentrated hydrochloric acid was mixed together with 18.6 g of 4'-methylpropiophenone, 27.0 g of N-isobutylpiperazine dihydrochloride and 8.5 g of trioxane. The mixture was heated with stirring under reflux for 4 hrs. while distilling off water generated through the reaction. After cooling, the reaction mixture was added with ether, and the precipitate was filtered, which was dissolved in water. The solution was adjusted to pH 6 with 5 N sodium hydroxide, washed with ether, and furtheradjusted to pH 7 with 5 N sodium hydroxide. The obtained solution was extracted with ether and the extract was dried, and white crystals generated by introducing dry hydrogen chloride were filtered and dried. The product was recrystallized from an ethanol-acetone mixed solvent, yielding 2,4'-dimethyl-3-(4-isobutylpiperazino)propiophenone dihydrochloride. (yield 46.5%), m.p. 215°-220° C.

reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | 4'-methylpropiophenone | 18.6 g | CC1=CC=C(C=C1)C(CC)=O | C10H12O
reactant | N-isobutylpiperazine dihydrochloride | 27.0 g | Cl.Cl.C(C(C)C)N1CCNCC1
reactant | trioxane | 8.5 g | O1OOCCC1 | C3H6O3
solvent | ether | CCOCC | C4H10O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
solvent | nitromethane | 125 ml | [N+](=O)([O-])C | CH3NO2
product | 2,4'-dimethyl-3-(4-isobutylpiperazino)propiophenone dihydrochloride | yield 46.5% | Cl.Cl.CC(C(=O)C1=CC=C(C=C1)C)CN1CCN(CC1)CC(C)C | InChI=1S/C19H30N2O.2ClH/c1-15(2)13-20-9-11-21(12-10-20)14-17(4)19(22)18-7-5-16(3)6-8-18;;/h5-8,15,17H,9-14H2,1-4H3;2*1H
